US06927222B2
(ii) N-[2-(7-oxabicyclo[4.1.0]hept-2-yloxy)phenyl]acetamide
To a solution of N-[2-(2-cyclohexen-1-yloxy)phenyl]acetamide (76 mg, 329 μmol, 1.0 equiv.) in dichloromethane (5 ml) m-chlorobenzoic acid (85 proz.; 121 mg, 559 μmol, 1.7 equiv.) was added at 0° C. Stirring was continued overnight while the reaction mixture was allowed to warm up slowly to room temperature. The heterogenous mixture was diluted with ethyl acetate and washed with sat sodium sulfite, 5% sodium hydroxide and brine. Drying over sodium sulfate, evaporation of the solvent and flash chromatography on silica gel provided 59 mg (73%) of the title compound as a mixture of the diastereoisomers (ratio A:B=trans:cis=5:3 [1H-NMR]).

reactant | N-[2-(2-cyclohexen-1-yloxy)phenyl]acetamide | 329 μmol, 76 mg, 1.0 equiv. | C1(C=CCCC1)OC1=C(C=CC=C1)NC(C)=O | C14H17NO2
reactant | dichloromethane | 559 μmol, 5 ml, 121 mg, 1.7 equiv. | ClCCl | CH2Cl2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-[2-(7-oxabicyclo[4.1.0]hept-2-yloxy)phenyl]acetamide | 59 mg, 73% | C12C(CCCC2O1)OC1=C(C=CC=C1)NC(C)=O | C14H17NO3
